US05002941
2-(4-Trimethylacetylthiophenyl)3-(4-pyridyl)-6,7-dihydro [5H]-pyrrolo[1,2 a]imidazole
To 1.0 q (3.4 mmole) of 2-(4 mercaptophenyl)-3-(4-pyridyl)-6,7-dihydro [5H]pyrrolo[1,2-a]imidazole prepared as in Example 16 in 50ml methylene chloride at ° C. was added a solution of 0.3 q (3.7 mmole, 0.26 ml) trimethylacetyl chloride in 10 ml CH2Cl2 over a period of 10 minutes. The reaction was allowed to come to room temperature and was stirred for 30 minutes. The mixture was then diluted with methylene chloride and washed with N NaHCO3, saturated NaCl, treated with Na2SO4, stripped, then flash chromatographed on silica with methylene chloride containing 1% to 5% MeOH. The isolated material was recrystallized from ethyl acetate to give 0.43 g of the titled compound. 33.5% yield, mp 216-217.5 ° C. C22H23N3OS, Calculated, C: 70.00, H: 6.14, N: 1.13; Found, C: 70.01, H: 6.20, N: 10.99.

reactant | 2-(4 mercaptophenyl)-3-(4-pyridyl)-6,7-dihydro [5H]pyrrolo[1,2-a]imidazole | 3.4 mmole | SC1=CC=C(C=C1)C=1N=C2N(C1C1=CC=NC=C1)CCC2 | C17H15N3S
reactant | trimethylacetyl chloride | 3.7 mmole, 0.26 ml | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | methylene chloride | 50ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-Trimethylacetylthiophenyl)3-(4-pyridyl)-6,7-dihydro [5H]-pyrrolo[1,2 a]imidazole | 0.43 g, 33.5% yield | CC(C(=O)SC1=CC=C(C=C1)C=1N=C2N(C1C1=CC=NC=C1)CCC2)(C)C | C22H23N3OS
